US07169787B2
N-(3,5-Dichloropyridine-4-yl)-[1-(3-methoxybenzyl)-7-azaindole-3-yl]-glyoxylic Acid Amide
To a suspension of 2 g of sodium hydride in 20 mL of THF, 2.4 g of 4-amino-3,5-dichloropyridine (15 mmoles) in 30 mL of THF are added dropwise at −5° C. The mixture is then kept for one hour at 20° C. with stirring. Subsequently, the previously prepared suspension of 1-(3-methoxybenzyl)-7-azaindole-3-yl-glyoxylic acid chloride is added dropwise at about 0° C. Finally, the reaction mixture is refluxed for 4 hours, after which the solvent is removed under vacuum. The residue is stirred with 50 mL of ethyl acetate and 50 mL of water. The phases are separated and the organic phase is washed with water. The solvent is distilled off under vacuum and the residue recrystallized from isopropanol.

reactant | sodium hydride | 2 g | [H-].[Na+]
reactant | 4-amino-3,5-dichloropyridine | 15 mmoles, 2.4 g | NC1=C(C=NC=C1Cl)Cl | C5H4Cl2N2
reactant | 1-(3-methoxybenzyl)-7-azaindole-3-yl-glyoxylic acid chloride | COC=1C=C(CN2C=C(C3=CC=CN=C23)C(C(=O)Cl)=O)C=CC1 | C17H13ClN2O3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | N-(3,5-Dichloropyridine-4-yl)-[1-(3-methoxybenzyl)-7-azaindole-3-yl]-glyoxylic Acid Amide | ClC=1C=NC=C(C1NC(C(=O)C1=CN(C2=NC=CC=C12)CC1=CC(=CC=C1)OC)=O)Cl | C22H16Cl2N4O3
